US08486980B2
[step 1] Using pentanenitrile (2.7 mL, 25.9 mol) instead of cyclopropylacetonitrile, and in the same manner as in Reference Example B9, step 1, (E)-2-(8-bromo-6,11-dihydrodibenzo[b,e]oxepin-11-ylidene)pentanenitrile and (Z)-2-(8-bromo-6,11-dihydrodibenzo[b,e]oxepin-11-ylidene)pentanenitrile (1.90 g, 51%) were obtained. [step 2] Using (E)-2-(8-bromo-6,11-dihydrodibenzo[b,e]oxepin-11-ylidene)pentanenitrile and (Z)-2-(8-bromo-6,11-dihydrodibenzo[b,e]oxepin-11-ylidene)pentanenitrile (1.9 g, 5.37 mmol) obtained in Reference Example B11, step 1, instead of (E)-2-(8-bromo-6,11-dihydrodibenzo[b,e]oxepin-11-ylidene)cyclopropylacetonitrile and (Z)-2-(8-bromo-6,11-dihydrodibenzo[b,e]oxepin-11-ylidene)cyclopropylacetonitrile, and in the same manner as in Reference Example B9, step 2, propyl(E)-11-(1-cyanobutylidene)-6,11-dihydrodibenzo[b,e]oxepine-8-carboxylate and propyl(Z)-11-(1-cyanobutylidene)-6,11-dihydrodibenzo[b,e]oxepine-8-carboxylate (1.05 g, 54%) were obtained. [step 3] Using propyl(E)-11-(1-cyanobutylidene)-6,11-dihydrodibenzo[b,e]oxepine-8-carboxylate and propyl(Z)-11-(1-cyanobutylidene)-6,11-dihydrodibenzo[b,e]oxepine-8-carboxylate (1.05 g, 2.91 mmol) instead of propyl(E)-11-(1-cyanocyclopropylmethylene)-6,11-dihydrodibenzo[b,e]oxepine-8-carboxylate and propyl(Z)-11-(1-cyanocyclopropylmethylene)-6,11-dihydrodibenzo[b,e]oxepine-8-carboxylate, and in the same manner as in Example B9, step 3, (E)-2-(8-hydroxymethyl-6,11-dihydrodibenzo[b,e]oxepin-11-ylidene)pentanenitrile (0.370 g, 41%) was obtained.

reactant | propyl(E)-11-(1-cyanobutylidene)-6,11-dihydrodibenzo[b,e]oxepine-8-carboxylate | C(#N)\C(\CCC)=C/1\C2=C(OCC3=C1C=CC(=C3)C(=O)OCCC)C=CC=C2 | C23H23NO3
reactant | propyl(Z)-11-(1-cyanobutylidene)-6,11-dihydrodibenzo[b,e]oxepine-8-carboxylate | 2.91 mmol, 1.05 g | C(#N)\C(\CCC)=C\1/C2=C(OCC3=C1C=CC(=C3)C(=O)OCCC)C=CC=C2 | C23H23NO3
reactant | propyl(Z)-11-(1-cyanocyclopropylmethylene)-6,11-dihydrodibenzo[b,e]oxepine-8-carboxylate | C(#N)C1(CC1)\C=C\1/C2=C(OCC3=C1C=CC(=C3)C(=O)OCCC)C=CC=C2 | C23H21NO3
product | (E)-2-(8-hydroxymethyl-6,11-dihydrodibenzo[b,e]oxepin-11-ylidene)pentanenitrile | 0.370 g, 41% | OCC1=CC2=C(/C(/C3=C(OC2)C=CC=C3)=C(\C#N)/CCC)C=C1 | C20H19NO2
